US09079914B2
Methyl 5-(fluoromethyl)pyrazine-2-carboxylate 29-(2)
To a solution of methyl 5-(hydroxymethyl)pyrazine-2-carboxylate (0.64 g) in THF (20 mL) was added triethylamine (2.30 g) and the solution was cooled to 0° C. Triethylamine trihydrofluoride (1.22 g) was then added followed by nonafluorobutanesulfonyl fluoride (2.28 g) dropwise over 5 mins. After warming to RT and stirring for 2 h, NaHCO3 (sat., aq., 100 mL) was added, and the mixture was extracted with EtOAc (2×50 mL). The combined organic portions were dried over MgSO4, evaporated, and purified by silica gel chromatography (5% to 50% EtOAc in hexane) to afford the title compound (94 mg). 1H NMR (400 MHz, CDCl3) δ ppm 4.07 (s, 3H), 5.67 (d, J=46.5 Hz, 2H), 8.89 (s, 1H), 9.28 (s, 1H)

reactant | methyl 5-(hydroxymethyl)pyrazine-2-carboxylate | 0.64 g | OCC=1N=CC(=NC1)C(=O)OC | C7H8N2O3
reactant | Triethylamine trihydrofluoride | 1.22 g | F.F.F.C(C)N(CC)CC
reactant | nonafluorobutanesulfonyl fluoride | 2.28 g | FC(C(C(S(=O)(=O)F)(F)F)(F)F)(C(F)(F)F)F | C4F10O2S
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | triethylamine | 2.30 g | C(C)N(CC)CC | C6H15N
product | Methyl 5-(fluoromethyl)pyrazine-2-carboxylate | 94 mg | FCC=1N=CC(=NC1)C(=O)OC | C7H7FN2O2
